US06897231B2
A. 5-{3-[4-(Trifluoromethyl)phenyl]-1H-indazol-5-yl}-1H-1,2,4-triazole
A mixture of 2-{3-bromo-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazolyl}perhydro-2H-pyran (300 mg, 0.508 mmol), 4-trifluoromethylphenylboronic acid (144 mg, 0.758 mmol, 1.49 equiv.), [1,1′-bis(diphenylphosphino)-ferrocene}dichloropalladium (II) complex with dichloromethane (Aldrich), 41.5 mg (0.0508 mmol, 0.100 equiv.), 2.53 mL of anhydrous DME, and powdered potassium phosphate (K3PO4, 535 mg, 2.52 mmol, 4.96 equiv.) were refluxed for 5 days. The reaction was diluted with CH2Cl2, washed with 2× sat. aq. NaHCO3, dried (Na2SO4), filtered, and concentrated. The crude material was purified by silica gel using 30-40% EtOAc in hexanes. To the purified material was added 5.00 mL of MeOH, and 5.00 mL of 6.0 N aq. HCl. The mixture was heated at 60° C. for 24 h. The reaction mixture was filtered. The solid was further purified by silica gel chromatography using EtOAc affording the title compound (69.3 mg). Further purification by prep HPLC afforded the title compound (18.9 mg, 11.3% yield): 1H NMR (CDCl3/CD3OD) δ 8.74 (s, 1H), 8.41-7.97 (m, 4H), 7.78 (d, 2H), 7.66 (d, 1H); ES-MS (m/z) 330 [M+1]+.

reactant | 2-{3-bromo-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazolyl}perhydro-2H-pyran | 0.508 mmol, 300 mg | BrC1=NN(C2=CC=C(C=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C1OCCCC1 | C33H28BrN5O
reactant | 4-trifluoromethylphenylboronic acid | 0.758 mmol, 144 mg, 1.49 equiv. | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | DME | 2.53 mL | COCCOC | C4H10O2
reactant | potassium phosphate | 2.52 mmol, 535 mg, 4.96 equiv. | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-{3-[4-(Trifluoromethyl)phenyl]-1H-indazol-5-yl}-1H-1,2,4-triazole | 18.9 mg, 11.3% yield | FC(C1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C1=NC=NN1)(F)F | C16H10F3N5
